US04940719
9-p-Chlorobenzyl-8-methylthio-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid, methyl ester
Following the procedure of Example 30, but using 1-(2-methylthiophenyl) hydrazine hydrochloride and ethyl 2-cyclohexanone acetate as starting materials, the title compound was prepared.

reactant | 1-(2-methylthiophenyl) hydrazine hydrochloride | Cl.CSC1=C(C=CC=C1)NN
reactant | ethyl 2-cyclohexanone acetate | CCOC(=O)CC1CCCCC1=O | C10H16O3
product | 9-p-Chlorobenzyl-8-methylthio-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid, methyl ester | ClC1=CC=C(CN2C3=C(C=CC=C3C=3CCCC(C23)CC(=O)OC)SC)C=C1 | C23H24ClNO2S
